US07723345B2
4-Phenylbenzaldehyde (0.3 g, 1.65 mmol) and 2-amino-5-bromopyrazine (0.24 g, 1.37 mmol) were treated with Na(OAc)3BH (0.44 g, 2.06 mmol) in dichloroethane (7.0 mls) and acetic acid (0.25 mls) for 18 hours at room temperature. The mixture was diluted with dichloromethane, washed with 1.0 N NaOH, washed with brine, dried over MgSO4, and concentrated. Chromatography (SiO2, EtOAc:Hex, 1:1) gave 0.18 g of N-(biphenyl-4-ylmethyl)-5-bromopyrazin-2-amine.

reactant | 4-Phenylbenzaldehyde | 1.65 mmol, 0.3 g | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
reactant | 2-amino-5-bromopyrazine | 1.37 mmol, 0.24 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | Na(OAc)3BH | 2.06 mmol, 0.44 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 7.0 mls | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 0.25 mls | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(biphenyl-4-ylmethyl)-5-bromopyrazin-2-amine | 0.18 g | C1(=CC=C(C=C1)CNC1=NC=C(N=C1)Br)C1=CC=CC=C1 | C17H14BrN3
